US05292732
Trifluoromethanesulphonic acid 5,6,10,11-tetrahydro-8-methyl-benzo[g]pyrazino[1,2-a]indol-3-yl ester (2.0 g), 1.85 g of anhydrous lithium chloride, 0.44 g of bis(triphenylphosphine)palladium dichloride, 0.88 g of triphenylphosphine and 3.9 g of tri-n-butyl-2-cyclohexen-1-yl-tin were suspended in 30 ml of dimethylformamide under argon and heated to 120° C. for 4 h. while stirring. The reaction mixture was cooled and stirred at room temperature overnight with 5 ml of pyridine and 0.6 g of hydrogen fluoride-pyridine complex (60% HF). The reaction mixture was added to 100 ml of 2N sodium hydroxide solution and stirred with 500 ml of diethyl ether for 10 minutes. Subsequently, the mixture was filtered over Celite®, the aqueous phase was extracted twice with 100 ml of diethyl ether each time and the organic phases were washed in succession with 100 ml of 2N sodium hydroxide solution and 100 ml of saturated sodium chloride solution, combined, dried with MgSO4 and freed from solvent. The residue, 6.8 g of yellow oil, was chromatographed on 60 g of silica gel with methylene chloride and methylene chloride/methanol/ammonia mixtures (30:1:0.1 to 20:1:0.1). There were obtained 1.05 g (64%) of 3-cyclohex-2-enyl-5,6,10,11-tetrahydro-8-methyl-benzo[g]pyrazino[1,2-a]indole as the crude product which was processed without further purification.

reactant | Trifluoromethanesulphonic acid 5,6,10,11-tetrahydro-8-methyl-benzo[g]pyrazino[1,2-a]indol-3-yl ester | 2.0 g | CC1=NCCN2C1=CC=1CCC3=C(C21)C=CC(=C3)OS(=O)(=O)C(F)(F)F | C17H15F3N2O3S
reactant | lithium chloride | 1.85 g | [Cl-].[Li+]
reactant | triphenylphosphine | 0.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tri-n-butyl-2-cyclohexen-1-yl-tin | 3.9 g | C(CCC)[Sn](C1C=CCCC1)(CCCC)CCCC
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 0.44 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-cyclohex-2-enyl-5,6,10,11-tetrahydro-8-methyl-benzo[g]pyrazino[1,2-a]indole | 1.05 g, 64% | C1(C=CCCC1)C=1C=CC2=C(CCC=3C=C4N(C23)CCN=C4C)C1 | C22H24N2
